US06476051B2
3-[1-(3-phenoxypropyl)-4-piperidinyl]-5-cyanoindole
A stirred solution of 3-(4-piperidinyl)-5-cyanoindole (0.71 g, 2.2 mmol), 3-phenoxypropyl bromide (0.52 g, 2.4 mmol), and triethylamine (0.6 ml, 4.4 mmol) in methanol (10 mL) was heated at reflux for 18 hours. The solution was concentrated in vacuo. Purification by flash chromatography yielded the product (0.35 g, 44%). 1H-NMR δ(CD3OD) 8.11 (s, 1 H), 7.49 (d, 1 H), 7.40 (d, 1 H), 7.28 (m, 3 H), 6.94 (m, 3 H), 4.12 (t, 2 H), 3.59 (br d, 2 H), 3.26-3.18 (m, 3 H), 3.04 (br t, 2 H), 2.25 (m, 4 H), 2.02 (br q, 2 H).

reactant | 3-(4-piperidinyl)-5-cyanoindole | 2.2 mmol, 0.71 g | N1CCC(CC1)C1=CNC2=CC=C(C=C12)C#N | C14H15N3
reactant | 3-phenoxypropyl bromide | 2.4 mmol, 0.52 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | triethylamine | 4.4 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 mL | CO | CH4O
product | 3-[1-(3-phenoxypropyl)-4-piperidinyl]-5-cyanoindole | 0.35 g, 44% | O(C1=CC=CC=C1)CCCN1CCC(CC1)C1=CNC2=CC=C(C=C12)C#N | C23H25N3O
